### PR TITLE
[Merged by Bors] - feat: Port algebra.punit_instances

### PR DESCRIPTION
**Pull request by arienmalec**
Port of algebra.punit_instances

- [x] depends on: #1330
- [x] depends on: #1314

### CODE REVIEW

**Comment by arienmalec** [comment]
Dependent on #1330

File: Mathlib/Algebra/PUnitInstances.lean [hunk 1]
```diff
@@ -0,0 +1,184 @@
...
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Kenny Lau
+
+! This file was ported from Lean 3 source module algebra.punit_instances
+! leanprover-community/mathlib commit 6cb77a8eaff0ddd100e87b1591c6d3ad319514ff
+! Please do not edit these lines, except to modify the commit id
+! if you have ported upstream changes.
+-/
+import Mathlib.Algebra.Module.Basic
+import Mathlib.Algebra.GcdMonoid.Basic
```
Comment (hrmacbeth) [inline Mathlib/Algebra/PUnitInstances.lean:12]:
```suggestion
import Mathlib.Algebra.GCDMonoid.Basic
```

**Comment by hrmacbeth** [comment]
Linter complaints in `Mathlib.Algebra.PUnitInstances`, new since the merge.

`impossibleInstance` linter complaining on `PUnit.canonicallyOrderedAddMonoid`
```text
argument 1 y : PUnit
```
and `simp`-normal form linter complaining on `PUnit.sub_eq`:
```
Left-hand side simplifies from
  x - y
to
  0
using
  simp only [sub_self, PUnit.zero_eq]
```
as well as giving "simp can prove this" on `PUnit.gcd_eq`:
```lean
by simp only [gcd_same, normalize_apply, normUnit_eq_one, Units.val_one, PUnit.one_eq, mul_one]
```
and `PUnit.lcm_eq`:
```lean
by simp only [lcm_same, normalize_apply, normUnit_eq_one, Units.val_one, PUnit.one_eq, mul_one]
```

**Comment by hrmacbeth** [comment]
If I'm reading correctly, the old version was on top of mathlib4 bfe06a7794b99fc5cd4c62d3f9bdb83ffbc71cc3 and the new version is on top of f46ac6ed5443aea3c63c631a9f79bac26165cae1, i.e. the following commits were added:

feat: port GroupTheory.Subsemigroup.Membership (#1318) 
feat: port GroupTheory.Submonoid.Centralizer (#1324)
chore: remove superfluous imports from runLinter (#1322) 
feat: ci: upload caches to azure (#1320)
chore: fix source header in Order.Monotone.Monovary (#1310) 
feat: port GroupTheory.Submonoid.Center (#1315) 
chore: fix more casing errors per naming scheme (#1232)  
feat: caching build files on Azure (#1230)

**Comment by semorrison** [comment]
This PR/issue depends on:
* leanprover-community/mathlib4#1330
By **[Dependent Issues](https://github.com/z0al/dependent-issues)** (🤖). Happy coding!

**Comment by arienmalec** [comment]
> Linter complaints in `Mathlib.Algebra.PUnitInstances`, ~new since the merge.~
> 
> `impossibleInstance` linter complaining on `PUnit.canonicallyOrderedAddMonoid`
> 
> ```
> argument 1 y : PUnit
> ```

Very strange issue -- I posted it to the Zulip.

> and `simp`-normal form linter complaining on `PUnit.sub_eq`:
> 
> ```
> Left-hand side simplifies from
>   x - y
> to
>   0
> using
>   simp only [sub_self, PUnit.zero_eq]
> ```

& sure enough it does -- but the fix is to explicitly define `sub_eq` rather than `to_additive` it?

> as well as giving "simp can prove this" on `PUnit.gcd_eq`:
> 
> ```lean
> by simp only [gcd_same, normalize_apply, normUnit_eq_one, Units.val_one, PUnit.one_eq, mul_one]
> ```
> 
> and `PUnit.lcm_eq`:
> 
> ```lean
> by simp only [lcm_same, normalize_apply, normUnit_eq_one, Units.val_one, PUnit.one_eq, mul_one]
> ```
De-simp it?

**Comment by hrmacbeth** [comment]
> > as well as giving "simp can prove this" on `PUnit.gcd_eq` and `PUnit.lcm_eq`
> 
> De-simp it?

There's been some discussion of this one, see e.g.
https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/simp.20can.20prove.20it/near/319425225
I think you want to de-simp and add a porting note.  Possibly in the future this will change (e.g. we might add a linter mechanism to *enforce* that simp continues to be able to prove this, throughout the rest of the port).

File: Mathlib/Algebra/PUnitInstances.lean [hunk 2]
```diff
@@ -50,37 +52,57 @@ theorem mul_eq : x * y = star :=
...
-          gcd := fun _ _ => star
-          lcm := fun _ _ => star
-          normUnit := fun x => 1
-          gcd_dvd_left := fun _ _ => ⟨star, Subsingleton.elim _ _⟩
-          gcd_dvd_right := fun _ _ => ⟨star, Subsingleton.elim _ _⟩
-          dvd_gcd := fun _ _ _ _ _ => ⟨star, Subsingleton.elim _ _⟩
-          gcd_mul_lcm := fun _ _ => ⟨1, Subsingleton.elim _ _⟩.. } <;>
-      intros <;>
-    exact Subsingleton.elim _ _
+instance commRing: CommRing PUnit where
```
Comment (hrmacbeth) [inline Mathlib/Algebra/PUnitInstances.lean:67]: You probably want this to inherit from the associated `CommGroup` and `AddCommGroup` instances (it's unlikely that there exists a change someone might make which would make them diverge, but better safe than sorry).  So something like
```lean
  { PUnit.CommGroup, PUnit.AddCommGroup with
    left_distrib := by intros; rfl
    right_distrib := by intros; rfl }
```

File: Mathlib/Algebra/PUnitInstances.lean [hunk 3]
```diff
@@ -0,0 +1,184 @@
...
+  mul_assoc := by intros; rfl
+  one_mul := by intros; rfl
+  mul_one := by intros; rfl
+  mul_left_inv := by intros; rfl
+  mul_comm := by intros; rfl
+
+@[simp, to_additive]
+theorem one_eq : (1 : PUnit) = star :=
+  rfl
+#align punit.one_eq PUnit.one_eq
```
Comment (hrmacbeth) [inline Mathlib/Algebra/PUnitInstances.lean:48]: Missing the `to_additive`-izations of the aligns, but maybe you just haven't got to it yet.

**Comment by hrmacbeth** [comment]
> > and `simp`-normal form linter complaining on `PUnit.sub_eq`:
> 
> & sure enough it does -- but the fix is to explicitly define `sub_eq` rather than `to_additive` it?

I looked at this one more closely.  The reason it worked to explicitly define `sub_eq` rather than `to_additive` it is that you need to give this lemma the `nolint simpNF` attribute, and you did not have the right syntax to `to_additive`-ize that attribute, probably because this changed just recently
https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/improved.20interaction.20of.20to_additive.20with.20other.20attributes
so your mathport output might have been for an old version.  I believe the new syntax would be
```lean
@[to_additive (attr := simp, nolint simpNF)]
```
You probably want to make a pass through the whole file, because I see other lemmas with `simp` and `to_additive` attributes that probably also need to be updated.

(Note for the experts: this is a case of a lemma which is marked `nolint simpNF` because it's proved by `rfl` so we want to make it available for `dsimp`.)

File: Mathlib/Algebra/PUnitInstances.lean (hunk 3 above)
Comment (arienmalec) [reply Mathlib/Algebra/PUnitInstances.lean:48]: Will align all the `to_additive`s

File: Mathlib/Algebra/PUnitInstances.lean [hunk 4]
```diff
@@ -97,23 +119,28 @@ theorem norm_unit_eq : normUnit x = 1 :=
   rfl
 #align punit.norm_unit_eq PUnit.norm_unit_eq
 
-instance : CanonicallyOrderedAddMonoid PUnit := by
+instance partialOrder : PartialOrder PUnit where
+  le_antisymm := by intros; rfl
```
[the remark this answers is not in the document]
Comment (arienmalec) [reply Mathlib/Algebra/PUnitInstances.lean:123]: Leftover from before I found & named the `completeBooleanAlgebra`

[the remark this answers is not in the document]
Comment (arienmalec) [reply Mathlib/Algebra/PUnitInstances.lean:123]: and weirdly fixes my `unit` instance issue.

File: Mathlib/Algebra/PUnitInstances.lean (hunk 2 above)
Comment (arienmalec) [reply Mathlib/Algebra/PUnitInstances.lean]: done -- thanks for syntax!

**Comment by arienmalec** [comment]
> ```lean
> @[to_additive (attr := simp, nolint simpNF)]
> ```

I *think* I don't have the updates in this branch. Will hunt down what I need to manually merge..

**Comment by arienmalec** [comment]
> > ```lean
> > @[to_additive (attr := simp, nolint simpNF)]
> > ```
> 
> I _think_ I don't have the updates in this branch. Will hunt down what I need to manually merge..

Addressed, now dependent on #1314 as well

File: Mathlib/Algebra/PUnitInstances.lean [hunk 5]
```diff
@@ -29,65 +29,73 @@ namespace PUnit
...
-          gcd_dvd_left := fun _ _ => ⟨star, Subsingleton.elim _ _⟩
-          gcd_dvd_right := fun _ _ => ⟨star, Subsingleton.elim _ _⟩
-          dvd_gcd := fun _ _ _ _ _ => ⟨star, Subsingleton.elim _ _⟩
-          gcd_mul_lcm := fun _ _ => ⟨1, Subsingleton.elim _ _⟩.. } <;>
-      intros <;>
-    exact Subsingleton.elim _ _
-
-@[simp]
+instance commRing: CommRing PUnit :=
+  { PUnit.commGroup, PUnit.addCommGroup with
```
Comment (hrmacbeth) [inline Mathlib/Algebra/PUnitInstances.lean:68]: I see that previously, the field
```lean
natCast := fun _ => PUnit.unit
```
was manually provided in this instance. Can you include that too, just in case that decision had content?

File: Mathlib/Algebra/PUnitInstances.lean [hunk 6]
```diff
@@ -97,29 +105,32 @@ theorem norm_unit_eq : normUnit x = 1 :=
...
-    le_of_add_le_add_left := fun _ _ _ _ => trivial }
+instance linearOrderedCancelAddCommMonoid: LinearOrderedCancelAddCommMonoid PUnit := by
+  refine'
+        { PUnit.canonicallyOrderedAddMonoid, PUnit.linearOrder with
+    le_of_add_le_add_left := fun _ _ _ _ => trivial
+    add_le_add_left := by intros; rfl }
 
 instance : LinearOrderedAddCommMonoidWithTop PUnit :=
-  { PUnit.completeBooleanAlgebra, PUnit.linearOrderedCancelAddCommMonoid with
+  { PUnit.completeBooleanAlgebra , PUnit.linearOrderedCancelAddCommMonoid with
```
Comment (hrmacbeth) [inline Mathlib/Algebra/PUnitInstances.lean:122]:
```suggestion
  { PUnit.completeBooleanAlgebra, PUnit.linearOrderedCancelAddCommMonoid with
```

File: Mathlib/Algebra/PUnitInstances.lean [hunk 7]
```diff
@@ -97,29 +105,32 @@ theorem norm_unit_eq : normUnit x = 1 :=
   rfl
 #align punit.norm_unit_eq PUnit.norm_unit_eq
 
-instance : CanonicallyOrderedAddMonoid PUnit := by
+instance canonicallyOrderedAddMonoid: CanonicallyOrderedAddMonoid PUnit := by
   refine'
-        { PUnit.commRing, PUnit.completeBooleanAlgebra with
-          exists_add_of_le := fun _ _ _ => ⟨star, Subsingleton.elim _ _⟩.. } <;>
+        { PUnit.commRing,  PUnit.completeBooleanAlgebra with
```
Comment (hrmacbeth) [inline Mathlib/Algebra/PUnitInstances.lean:110]:
```suggestion
        { PUnit.commRing, PUnit.completeBooleanAlgebra with
```

File: Mathlib/Algebra/PUnitInstances.lean [hunk 8]
```diff
@@ -97,29 +105,32 @@ theorem norm_unit_eq : normUnit x = 1 :=
...
+  { PUnit.completeBooleanAlgebra , PUnit.linearOrderedCancelAddCommMonoid with
     top_add' := fun _ => rfl }
 
 @[to_additive]
-instance : HasSmul R PUnit :=
+instance smul : SMul R PUnit :=
   ⟨fun _ _ => unit⟩
 
-@[simp, to_additive]
+@[to_additive (attr := simp, nolint simpNF)]
```
Comment (hrmacbeth) [inline Mathlib/Algebra/PUnitInstances.lean:129]: You've added a `nolint simpNF` here -- accidental?

File: Mathlib/Algebra/PUnitInstances.lean (hunk 3 above)
Comment (hrmacbeth) [reply Mathlib/Algebra/PUnitInstances.lean:48]: Seem to have missed a few, this one included.

File: Mathlib/Algebra/PUnitInstances.lean [hunk 9]
```diff
@@ -0,0 +1,168 @@
...
+
+universe u
+
+namespace PUnit
+
+variable {R S : Type _} (x y : PUnit.{u + 1}) (s : Set PUnit.{u + 1})
+
+@[to_additive]
+instance commGroup: CommGroup PUnit where
+  mul := fun _ _ => PUnit.unit
```
Comment (hrmacbeth) [inline Mathlib/Algebra/PUnitInstances.lean:33]: Does `unit` work instead of `PUnit.unit`?  You're in the `PUnit` namespace.  Same in many places throughout.

File: Mathlib/Algebra/PUnitInstances.lean (hunk 8 above)
Comment (arienmalec) [reply Mathlib/Algebra/PUnitInstances.lean:134]: yep -- copy n paste error

File: Mathlib/Algebra/PUnitInstances.lean (hunk 9 above)
Comment (arienmalec) [reply Mathlib/Algebra/PUnitInstances.lean]: done

**Comment by arienmalec** [comment]
Who knew a file that's all trival defs and lemmas could be so difficult.

**Comment by hrmacbeth** [comment]
Thanks!

bors r+
